US07074794B2
1-Benzyloxycarbonylpiperazine (5.00 g) was dissolved in acetone (50 mL), and phenyl isothiocyanate (2.9 mL) was added thereto under ice-cooling. The mixture was stirred at room temperature for 1 hr. The precipitated solid was collected by filtration to give 1-(anilinocarbothioyl)-4-(benzyloxycarbonyl)piperazine (5.08 g) as a white powder.

reactant | 1-Benzyloxycarbonylpiperazine | 5.00 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | phenyl isothiocyanate | 2.9 mL | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-(anilinocarbothioyl)-4-(benzyloxycarbonyl)piperazine | 5.08 g | N(C1=CC=CC=C1)C(=S)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H21N3O2S
